US07414060B2
6-Cyclopropyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide
The Al(Me)3-catalyzed reaction of 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester and 3-Amino-1-methylpyrazole in accordance with the general method of Example 78, step 2 yielded the title compound as a light yellow cristalline solid, MS (ISP): m/e=335.4 (M+H+).

reactant | Al(Me)3 | [Al](C)(C)C
reactant | 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C1CC1 | C16H17N3O2
reactant | 3-Amino-1-methylpyrazole | NC1=NN(C=C1)C | C4H7N3
product | 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C1CC1 | C18H18N6O
